US07119205B2
Cyanoacetic acid (1.2 g, 14.0 mmol) and CH2Cl2 (14 ml) were combined at rt under N2. The solids do not dissolve. PCl5 (2.9 g, 14.0 mmol) was added as a solid portion wise (bubbles vigorously). The suspension was heated at reflux for 30 min and all solids dissolve to give a clear, light yellow solution. The acyl chloride solution was cooled and added directly to 5′-Amino-5-iodo-4-methyl-[2,3′]bithiophenyl-4′-carboxylic acid ethyl ester (2.0 g, 5.1 mmol) in CH2Cl2. The solution was stirred at rt for 2.5 h. The reaction was poured into NaHCO3 (aq, sat.) and washed a second time with NaHCO3 (aq, sat.). The organics were washed with brine and dried (Na2SO4), filtered and concentrated by rotary evaporation to give a light yellow solid which was then triturated with CH3CN and filtered to give 5′-(2-Cyano-acetylamino)-5-iodo-4-methyl-[2,3′]bithiophenyl-4′-carboxylic acid ethyl ester (1.7 g, 3.7 mmol) as a white solid. This material was taken to the next step without further purification.

reactant | Cyanoacetic acid | 14.0 mmol, 1.2 g | C(#N)CC(=O)O | C3H3NO2
reactant | PCl5 | 14.0 mmol, 2.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 5′-Amino-5-iodo-4-methyl-[2,3′]bithiophenyl-4′-carboxylic acid ethyl ester | 5.1 mmol, 2.0 g | C(C)OC(=O)C=1C(=CSC1N)C=1SC(=C(C1)C)I | C12H12INO2S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 14 ml | C(Cl)Cl | CH2Cl2
product | 5′-(2-Cyano-acetylamino)-5-iodo-4-methyl-[2,3′]bithiophenyl-4′-carboxylic acid ethyl ester | 3.7 mmol, 1.7 g | C(C)OC(=O)C=1C(=CSC1NC(CC#N)=O)C=1SC(=C(C1)C)I | C15H13IN2O3S2
